US04742069
A suspension of 2.09 g of 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid 2-acetoxyethyl ester in 20 ml of ethanol was treated dropwise at room temperature with a solution of 0.36 g of sodium hydroxide in 24 ml of ethanol. The dark orange solution obtained was subsequently stirred at room temperature for 1 hour. The ethanol was thereupon evaporated off at 25°-30° under reduced pressure and the residue was dissolved in 20 ml of water. The mixture was acidified cautiously with 2N hydrochloric acid, extracted several times with a mixture of methylene chloride/ethyl acetate (9:1) and the extract was dried over sodium sulfate. After evaporation of the solvent the solid residue was recrystallized from ethanol. There were obtained 1.55 g of 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid 2-hydroxyethyl ester in the form of pale yellow crystals, m.p. 185°-188°.

reactant | 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid 2-acetoxyethyl ester | 2.09 g | C(C)(=O)OCCOC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(NC(C)C)(=O)=O)=O)C)C)=O | C23H29N3O9S
reactant | sodium hydroxide | 0.36 g | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid 2-hydroxyethyl ester | 1.55 g | OCCOC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(NC(C)C)(=O)=O)=O)C)C)=O | C21H27N3O8S
